US07994171B2
tert-butyl 1-(furan-2-yl)cyclopropylcarbamate.
A solution of 1-(furan-2-yl)cyclopropanamine (2.3 g, 18.69 mmol, 1.0 eq) in THF (25 ml) was added Boc anhydride (4.9 g, 22.47 mmol, 1.2 eq) at 0° C. and then stirred at r.t. overnight. The reaction mixture was concentrated and crude product was purified by silica gel (60-120) column chromatography using 5% EtOAc/Pet ether as eluent. Yield: 2.5 g (60%). 1H NMR (400 MHz, CDCl3): δ 1.17 (s, 2H), 1.28 (s, 2H), 1.43 (s, 9H), 5.21 (bs, 1H) 6.09 (d, J=2.8 Hz, 1H), 6.26 (q, J=3.2 Hz 1H), 7.23 (q, J=2.0 Hz, 1H). LCMS (ES+) m/z=123.7 (M)+

reactant | 1-(furan-2-yl)cyclopropanamine | 18.69 mmol, 2.3 g, 1.0 eq | O1C(=CC=C1)C1(CC1)N | C7H9NO
reactant | Boc anhydride | 22.47 mmol, 4.9 g, 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl 1-(furan-2-yl)cyclopropylcarbamate | O1C(=CC=C1)C1(CC1)NC(OC(C)(C)C)=O | C12H17NO3
